US07767675B2
Step 1. 3-quinoxalin-6-ylpropanal
A mixture of 6-bromoquinoxaline (0.40 g, 1.9 mmol), 2-propen-1-ol (0.260 mL, 3.8 mmol), tris(dibenzylideneacetone)dipalladium (26 mg, 0.029 mmol), tri-tert-butylphosphonium tetrafluoroborate (16 mg, 0.057 mmol) and N-cyclohexyl-N-methyl-cyclohexanamine (0.49 mL, 2.3 mmol) in 1,4-dioxane (3.0 mL) was stirred at 40° C. overnight. After cooling to RT, the mixture was filtered, washed with methylene chloride and the filtrate was concentrated. The crude material was purified by chromatography on silica gel with EtOAc in Hexane (0-40%) to afford the desired product (195 mg). LCMS: (M+H)=187.3.

reactant | 6-bromoquinoxaline | 1.9 mmol, 0.40 g | BrC=1C=C2N=CC=NC2=CC1 | C8H5BrN2
reactant | 2-propen-1-ol | 3.8 mmol, 0.260 mL | C(C=C)O | C3H6O
reactant | N-cyclohexyl-N-methyl-cyclohexanamine | 2.3 mmol, 0.49 mL | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.029 mmol, 26 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-tert-butylphosphonium tetrafluoroborate | 0.057 mmol, 16 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
product | 3-quinoxalin-6-ylpropanal | 195 mg | N1=CC=NC2=CC(=CC=C12)CCC=O | C11H10N2O
